US06909001B2
2,4-diamino-8-(2-pyrrolidin-1-ylethoxy)-5H-chromeno[2,3-b]pyridine-3-carbonitrile was prepared from 2,4-diamino-8-hydroxy-5H-chromeno[2,3-b]pyridine-3-carbonitrile in the same manner as described in Example 10, using 1-(2-chloroethyl)pyridine in lieu of 2-bromoethyl-ethylether. The product was isolated as a tan solid (100 mg, 46% yield).

reactant | 2,4-diamino-8-hydroxy-5H-chromeno[2,3-b]pyridine-3-carbonitrile | NC1=C(C(=C2C(=N1)OC1=CC(=CC=C1C2)O)N)C#N | C13H10N4O2
reactant | 1-(2-chloroethyl)pyridine | ClCCN1CC=CC=C1 | C7H10ClN
reactant | 2-bromoethyl-ethylether | BrCCOCC | C4H9BrO
product | 2,4-diamino-8-(2-pyrrolidin-1-ylethoxy)-5H-chromeno[2,3-b]pyridine-3-carbonitrile | NC1=C(C(=C2C(=N1)OC1=CC(=CC=C1C2)OCCN2CCCC2)N)C#N | C19H21N5O2
